US07576211B2
Step D: Preparation of ethyl 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxothieno[2,3-b]pyridine-5-carboxylate
To a solution of crude 1-isobutyl-1H-thieno[2,3-d][1,3]oxazine-2,4-dione (2.0 g) in N,N-dimethylacetamide (30 mL) were added diethylmalonate (2.13 g, 13.3 mmol) and sodium hydride (0.32 g, 13.3 mmol). The resulting mixture was heated at 110° C. for 4 h, cooled to room temperature, concentrated to dryness and dissolved in water. This aqueous solution was washed with ethyl acetate, acidified with concentrated hydrochloric acid and followed by extraction with dichloromethane. The extract was dried over anhydrous sodium sulfate and concentrated. The residue was purified on a silica gel flash chromatography column eluted with 10% ethyl acetate-hexane to afford the title compound as a slightly yellow oil (1.95 g, 74% yield for Steps C and D combined). 1H NMR (400 MHz, CDCl3): δ 7.32 (d, 1H), 6.90 (d, 1H), 4.49 (q, 2H), 3.90 (d, 2H), 2.49 (m, 1H), 1.46 (t, 3H), 0.98 (d, 6H); MS: m/e 296 (M+H+).

reactant | 1-isobutyl-1H-thieno[2,3-d][1,3]oxazine-2,4-dione | 2.0 g | C(C(C)C)N1C(OC(C2=C1SC=C2)=O)=O | C10H11NO3S
reactant | diethylmalonate | 13.3 mmol, 2.13 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | sodium hydride | 13.3 mmol, 0.32 g | [H-].[Na+]
reactant | N,N-dimethylacetamide | 30 mL | CN(C(C)=O)C | C4H9NO
product | ethyl 6,7-dihydro-4-hydroxy-7-isobutyl-6-oxothieno[2,3-b]pyridine-5-carboxylate | 74% yield | OC=1C2=C(N(C(C1C(=O)OCC)=O)CC(C)C)SC=C2 | C14H17NO4S
